US07479558B2
3-[2-(1,4′-bipiperidin-1′-yl)-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide
To a solution of compound 7-(1,4′-bipiperidin-1′-yl)-5-chloro-1-(2,6-difluorophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (18 mg, 0.04 mmol) in dioxane (1.5 mL)/water (0.5 mL) were added potassium carbonate (34 mg, 0.25 mmol), tetrakis(triphenylphosphine)palladium(0) (2.3 mg, 0.002 mmol) and N-(4-fluorophenyl)-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (22 mg, 0.062 mmol).The reaction mixture was bubbled with N2 for 5 mins, then microwaved at about 150° C. for about 30 mins. The reaction mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH [7]+NH4OH[3]) provided the title compound as a white solid (13 mg, 51%). LC-MS m/z 656 (M+H)+; 1H-NMR (CD3OD) δ 1.37 (m, 2 H), 1.48 (m, 2 H), 1.60 (m, 4 H), 1.80 (m, 2 H), 2.33 (s, 3 H), 2.56 (m, 5 H), 2.72 (t, 2 H), 4.17 (m, 2 H), 4.46 (m, 2 H),7.12 (m, 4 H), 7.52 (m, 2 H), 7.72 (m, 2 H), 7.82 (s, 1 H), 7.98 (d, 1 H).

reactant | 7-(1,4′-bipiperidin-1′-yl)-5-chloro-1-(2,6-difluorophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.04 mmol, 18 mg | N1(CCCCC1)C1CCN(CC1)C1=NC(=C2C(=N1)N(C(NC2)=O)C2=C(C=CC=C2F)F)Cl | C22H25ClF2N6O
reactant | water | 0.5 mL | O | H2O
reactant | potassium carbonate | 0.25 mmol, 34 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(4-fluorophenyl)-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.062 mmol, 22 mg | FC1=CC=C(C=C1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C20H23BFNO3
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.002 mmol, 2.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[2-(1,4′-bipiperidin-1′-yl)-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide | 13 mg, 51% | N1(CCCCC1)C1CCN(CC1)C=1N=C(C2=C(N(C(NC2)=O)C2=C(C=CC=C2F)F)N1)C=1C=C(C(=O)NC2=CC=C(C=C2)F)C=CC1C | C36H36F3N7O2
